US05712387
Tetra-O-Acetyl-α-D-mannopyranosyl fluoride
Mannose pentaacetate (100 g) was stirred with dichloromethane (10 mL) in a FEP Erlenmeyer. Cold HF-pyridine (100 g) was added and the resulting solution stirred at 40° C., sealed, overnight. The solution was poured into a FEP separating funnel containing water and chloroform and shaken. The chloroform layer was washed once with water and once with saturated sodium bicarbonate. The aqueous layers were neutralized with sodium hydroxide. The organic solution was dried over magnesium sulfate and concentrated under reduced pressure. The product was purified by plug chromatography (silica, eluent hexane/EtOAc). Yield 74.06 g, 80%.

reactant | Mannose pentaacetate | 100 g | C(C)(=O)O[C@H](C=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](OC(C)=O)COC(C)=O | C16H22O11
reactant | HF-pyridine | 100 g | C1=CC=NC=C1.F
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | Tetra-O-Acetyl-α-D-mannopyranosyl fluoride | C(C)(=O)O[C@@H]1[C@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)F | C14H19FO9
